US07166587B2
A solution of 0.20 g (0.9 mmol) (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one in 8 ml tetrahydrofurane was treated at 0° C. with 0.09 g (0.99 mmol) L-lactic acid, 0.14 g (0.9 mmol) 1-hydroxybenzotriazole hydrate, 314 μl (1.8 mmol) N-ethyldiisopropylamine and 0.18 g (0.9 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid. After stirring at room temperature overnight the mixture was extracted with 1N aqueous hydrochloric acid/ethylacetate. Purification by chromatography on silicagel with ethylacetate/cyclohexane (0-100/100-0) yielded 0.19 g (70%) (S)-2-hydroxy-N—((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide as white solid; MS: m/e: 297.1 (M+H+).

reactant | (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one | 0.9 mmol, 0.20 g | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | L-lactic acid | 0.99 mmol, 0.09 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole hydrate | 0.9 mmol, 0.14 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 1.8 mmol, 314 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochlorid | 0.9 mmol, 0.18 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofurane | 8 ml | O1CCCC1 | C4H8O
product | (S)-2-hydroxy-N—((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide | 0.19 g, 70% | O[C@H](C(=O)N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)C | C17H16N2O3
